US07282608B2
Step 1: 4-(3-Oxo-3-phenyl-propyl)-benzoic acid (XXVIa)
To a stirred solution at room temperature of chalcone XXIIIa (1.29 g, 5.13 mmol) in DMF (20 ml) was added phenylsulfonylhydrazine (1.76 g, 10.26 mmol). The reaction mixture was stirred at 10° C. for 15 h, cooled and concentrated. The remained oily residue was partitioned between a saturated aqueous solution of NH4Cl and AcOEt. After separation, the organic layer was dried, partially evaporated and filtered. The filtrate was purified by flash chromatography on silica gel (AcOEt/hexane:50/50□75/25) to form a material which after a second column purification (MeOH/CH2Cl2:5/95) afford the title compound XXVIa (400 mg, 1.59 mmol, 31% yield).

reactant | chalcone | C1(=CC=CC=C1)C=CC(=O)C1=CC=CC=C1 | C15H12O
reactant | phenylsulfonylhydrazine | 10.26 mmol, 1.76 g | C1(=CC=CC=C1)S(=O)(=O)NN | C6H8N2O2S
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-(3-Oxo-3-phenyl-propyl)-benzoic acid | 31% yield | O=C(CCC1=CC=C(C(=O)O)C=C1)C1=CC=CC=C1 | C16H14O3
